US04598077
To a mixture of 25 ml of chloroform and 50 ml of anhydrous methanol saturated with anhydrous hydrogen chloride while cooling in ice, was added 4.8 g of 3-methoxy-4-(4 -phthalimidomethylbenzyloxy)benzonitrile. The mixture was stirred at room temperature for 24 hours, then concentrated, and admixed with ethyl acetate to yield 3.4 g of colorless or pink solid methyl 3-methoxy-4-(4-phthalimidomethylbenzyloxy)benzimidate hydrochloride; m.p. 221°-222° C.

reactant | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
reactant | hydrogen chloride | Cl | ClH
reactant | 3-methoxy-4-(4 -phthalimidomethylbenzyloxy)benzonitrile | 4.8 g | COC=1C=C(C#N)C=CC1OCC1=CC=C(C=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C24H18N2O4
reactant | methanol | 50 ml | CO | CH4O
product | methyl 3-methoxy-4-(4-phthalimidomethylbenzyloxy)benzimidate hydrochloride | Cl.COC=1C=C(C(OC)=N)C=CC1OCC1=CC=C(C=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | InChI=1S/C25H22N2O5.ClH/c1-30-22-13-18(23(26)31-2)11-12-21(22)32-15-17-9-7-16(8-10-17)14-27-24(28)19-5-3-4-6-20(19)25(27)29;/h3-13,26H,14-15H2,1-2H3;1H
